US08536172B2
4-Bromoindole (20 g, 102 mmol) was dissolved in 70 mL of NMP and the solution was stirred under ice bath. Sodium hydride (6 g, 60% in mineral oil, 150 mmol) was added in small portions over 30 minutes. The mixture was stirred at room temperature for 40 minutes and then cooled under ice bath. A solution of 4-chloro-2-methylsulfanylpyridine (19.7 g, 122 mmol) in 10 mL of NMP was added through a dropping funnel over 10 minutes. The mixture was stirred at room temperature overnight. Water (150 mL) was added with stirring. The solid material was filtered and washed with water, air dried. This material was suspended in hot ethyl acetate (200 mL) and dichloromethane (200 mL) was added to give a clear solution. Charcoal (5 g) was added and the mixture was stirred for 10 minutes, filtered through Celite. The resulting solution was gently evaporated to remove dichloromethane until crystalline material appeared. The mixture was kept at room temperature for 2 hrs and crystals were filtered, rinsed with cold ethyl acetate (90 mL), air dried, to give 4-bromo-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indole as an off white solid (21.5 g, 65%). LC-MS calcd for C13H10BrN3S (m/e) 318.98, obsd 320.0 (M+H).

reactant | 4-Bromoindole | 102 mmol, 20 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | Sodium hydride | 150 mmol, 6 g | [H-].[Na+]
reactant | 4-chloro-2-methylsulfanylpyridine | 122 mmol, 19.7 g | ClC1=CC(=NC=C1)SC | C6H6ClNS
reactant | Charcoal | 5 g | C | CH4
reactant | NMP | 70 mL | CN1CCCC1=O | C5H9NO
reactant | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | Water | 150 mL | O | H2O
product | 4-bromo-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indole | BrC1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)SC | C13H10BrN3S
